US07030128B2
A mixture of 3-(4-bromothien-2-yl)pyridine (948 mg, 4.0 mmol), bis-(neopentyl glycolato)diborane (985 g, 4.36 mmol), KOAc (1.16 g, 11.8 mmol) and Pd(dppf)Cl2 (161 mg, 5 mol %) in 1,4-dioxane (50 ml) was degassed with a stream of N2 for 10 min and then heated at 110° C. for 3 h. The reaction mixture was concentrated under reduced pressure and H2O (100 ml) was added, and then was extracted with diethyl ether (2×75 ml). The combined ethereal extracts were washed with brine (50 ml) and dried (MgSO4) to yield 3-[4-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)thien-2-yl]pyridine (927 mg, 85%): δH (360 MHz, CDCl3) 1.03 (6H, s), 3.77 (4H, s), 7.30 (1H, dd, J 7.6 and 4.4), 7.62 (1H, s), 7.83 (1H, s), 7.88 (1H, dt, J 7.6 and 1.8), 8.51 (1H, s), 8.91 (1H, s); m/z (ES+) 273, 274 (1:4) (M++H).

reactant | 3-(4-bromothien-2-yl)pyridine | 4.0 mmol, 948 mg | BrC=1C=C(SC1)C=1C=NC=CC1 | C9H6BrNS
reactant | bis-(neopentyl glycolato)diborane | 4.36 mmol, 985 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | KOAc | 11.8 mmol, 1.16 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 161 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[4-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)thien-2-yl]pyridine | 927 mg, 85% | CC1(COB(OC1)C=1C=C(SC1)C=1C=NC=CC1)C | C14H16BNO2S
